US05977134
Step 1: Preparation of 5-(2-(3-tolyl)vinyl)-2-trifluoroacetoxy-1,2,3,4-tetrahydroisoquinoline
A solution of 5-bromo-2-trifluoroacetoxy-1,2,3,4-tetrahydroisoquinoline (616 mg, 2 mmol), 3-vinyltoluene (330 mg, 2.5 mmol), tri-o-tolylphosphine (50 mg) and palladium acetate (20 mg) in triethylamine (1 mL) were heated in a pressure bomb at 100° C. for 8 h. Column chromatography of the dark mixture (silica gel; hexane/EtOAc 40:1 then 20:1) afforded the title compound. FAB ms (m+1) 346.18

reactant | 5-bromo-2-trifluoroacetoxy-1,2,3,4-tetrahydroisoquinoline | 2 mmol, 616 mg | BrC1=C2CCN(CC2=CC=C1)OC(C(F)(F)F)=O | C11H9BrF3NO2
reactant | 3-vinyltoluene | 2.5 mmol, 330 mg | C(=C)C=1C=C(C=CC1)C | C9H10
reactant | tri-o-tolylphosphine | 50 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | hexane EtOAc | CCCCCC.CCOC(=O)C
solvent | triethylamine | 1 mL | C(C)N(CC)CC | C6H15N
catalyst | palladium acetate | 20 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 5-(2-(3-tolyl)vinyl)-2-trifluoroacetoxy-1,2,3,4-tetrahydroisoquinoline | C1(=CC(=CC=C1)C=CC1=C2CCN(CC2=CC=C1)OC(C(F)(F)F)=O)C | C20H18F3NO2
